US07541481B2
8.1. Preparation of 2-[2-(1H-inden-3-yl)-2-methylpropyl]-1-phenyl-1H-imidazole
A solution of 1.58 g 2-methyl-1-phenyl-1H-imidazole (10 mmol) in 15 ml of tetrahydrofuran was cooled to −78° C. and 6.25 ml of 15% n-butyl-lithium in hexane (10 mmol) were added. The resulting mixture was stirred for an additional 20 min and then treated with a solution of 1.56 g 1-(1-methylethylidene)-1H-indene (10 mmol) in 5 ml tetrahydrofuran with vigorous stirring while the temperature was maintained at −78° C. The reaction mixture was allowed to reach room temperature, stirred for 14 h and hydrolyzed with saturated ammonium chloride solution. The organic layer was isolated and the aqueous layer was extracted three times with dichloromethane. The organic layers were dried over MgSO4, filtered and the solvent removed. The crude product was purified by column chromatography with silica as stationary phase. At the beginning a 5/1 hexane/ethyl acetate elution mixture was used (for the separation from 1-(1-methylethylidene)-1H-indene). Then, the elution mixture was changed to 1/1 hexane/ethyl acetate. After removal of the solvent 2.13 g (69%) of 2-[2-(1H-inden-3-yl)-2-methylpropyl]-1-phenyl-1H-imidazole was obtained as an oil.

reactant | 2-methyl-1-phenyl-1H-imidazole | 10 mmol, 1.58 g | CC=1N(C=CN1)C1=CC=CC=C1 | C10H10N2
reactant | n-butyl-lithium | 6.25 ml | C(CCC)[Li]
reactant | hexane | 10 mmol | CCCCCC | C6H14
reactant | 1-(1-methylethylidene)-1H-indene | 10 mmol, 1.56 g | CC(C)=C1C=CC2=CC=CC=C12 | C12H12
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[2-(1H-inden-3-yl)-2-methylpropyl]-1-phenyl-1H-imidazole | C1C=C(C2=CC=CC=C12)C(CC=1N(C=CN1)C1=CC=CC=C1)(C)C | C22H22N2
